US07129232B2
To a solution of 7-amino-2,3-dihydro-1H-imidazo[1,2-b]pyrazole sulfuric acid salt (1.42 g) and N-ethyldiisopropylamine (2.73 g) in methylene chloride (50 ml) was added N-[2-(tert-butoxycarbonylamino)acetoxy]succinimide (1.90 g). The mixture was stirred at room temperature for 22 hours. The reaction mixture was washed with saturated aqueous sodium hydrogen carbonate solution, and the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The oily residue was purified by column chromatography on silica gel eluting with 5% methanol/chloroform to give 7-[2-(tert-butoxycarbonylamino)acetyl]amino-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (1.07 g) as a solid.

reactant | 7-amino-2,3-dihydro-1H-imidazo[1,2-b]pyrazole sulfuric acid salt | 1.42 g | S(O)(O)(=O)=O.NC1=C2N(N=C1)CCN2
reactant | N-ethyldiisopropylamine | 2.73 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-[2-(tert-butoxycarbonylamino)acetoxy]succinimide | 1.90 g | C(C)(C)(C)OC(=O)NCC(=O)ON1C(CCC1=O)=O | C11H16N2O6
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(tert-butoxycarbonylamino)acetyl]amino-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 1.07 g | C(C)(C)(C)OC(=O)NCC(=O)NC1=C2N(N=C1)CCN2 | C12H19N5O3
